US06787671B2
Methyl cinnamate (100 mg) was dissolved in DMF (5 mL), and OsO4 (0.076 mL, 2.5% in tBuOH) was added and stirred for 5 min. OXONE (1.52 g) was added in one portion and the reaction had a final volume (7 mL). The reaction was stirred at room temperature for 3 hours or until the solution becomes colorless. This usually marks the completion of the reaction which was verified by TLC or GC. Na2SO3 (600 mg) was added, to reduce the remaining Os(VIII), and stirred for an additional hour or until solution became dark brown/black. EtOAc was added to extract the products and 1N HCl was used to dissolve the salts. The organic extract was washed with 1N HCl (30 mL×3) and brine (30 mL), dried over Na2SO4, and the solvent was removed under reduced pressure to obtain the crude product. Benzoic acid was obtained in 94% yield without the need for further purification.

reactant | Methyl cinnamate | 100 mg | C(C=CC1=CC=CC=C1)(=O)OC | C10H10O2
reactant | OXONE | 1.52 g | OOS(=O)[O-].[K+]
reactant | Na2SO3 | 600 mg | [O-]S(=O)[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | OsO4 | 0.076 mL | O=[Os](=O)(=O)=O
product | Benzoic acid | 94% yield | C(C1=CC=CC=C1)(=O)O | C7H6O2
